US04038396
3-(2-Fluorobenzoylamino)-2-pyridone (2 g.), 60 ml. of xylene and 15 ml of pyridine were heated until solution was complete. To this solution was added 6.5 grams of phosphorus pentasulfide and the mixture was heated at reflux for 16 hours. The reaction mixture was decanted from a gummy residue while hot, and the solvents were concentrated to dryness. The crystalline residue was recrystallized from ethanol to give 2-(2-fluorophenyl)thiazolo[ 5,4-b]pyridine, m.p. 119°-121° C.

reactant | 3-(2-Fluorobenzoylamino)-2-pyridone | 2 g | FC1=C(C(=O)NC=2C(NC=CC2)=O)C=CC=C1 | C12H9FN2O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | phosphorus pentasulfide | 6.5 grams | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-fluorophenyl)thiazolo[ 5,4-b]pyridine | FC1=C(C=CC=C1)C=1SC2=NC=CC=C2N1 | C12H7FN2S
